US06841552B1
A solution of 4-(2-keto-1-benzimidazolinyl)piperidine (10.0 g, 46 mmol), ethyl bromoacetate (5.1 mL, 46 mmol) and N,N-diisopropylethylamine (8.8 mL, 50.6 mmol) in acetonitrile (200 mL) was heated at reflux for 1 hour. The solvent was evaporated in vacuo, and the residue was suspended in water (˜200 mL). The suspension was made basic with the addition of a saturated aqueous solution of sodium bicarbonate. The resultant solid was collected by filtration, washed with water and dried in vacuo to give the ethyl (4-(2-keto-1-benzimidazolinyl)piperidin-1-yl)acetate as a colorless solid (13.2 g, 94%). MS m/z 304 (MH+); NMR(CDCl3): δ 1.32 (t, 3 H), 1.84 (br d, 2 H), 2.40-2.66 (m, 4 H), 3.13 (br d, 2 H), 3.31 (s, 2 H), 4.23 (q, 2 H), 4.45-4.49 (m, 1 H), 6.99-7.10 (m, 2 H), 7.12-7.19 (m, 1 H), 7.27-7.34 (m, 1 H) and 10.54 (brs, 1 H).

reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 46 mmol, 10.0 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | ethyl bromoacetate | 46 mmol, 5.1 mL | BrCC(=O)OCC | C4H7BrO2
reactant | N,N-diisopropylethylamine | 50.6 mmol, 8.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | ethyl (4-(2-keto-1-benzimidazolinyl)piperidin-1-yl)acetate | 13.2 g, 94% | O=C1NC2=C(N1C1CCN(CC1)CC(=O)OCC)C=CC=C2 | C16H21N3O3
